US07420001B2
To 80 mg of 5-chloro-4-isopropoxy-3-methyl-benzofuran-2-carboxylic acid was added 121 mg of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester, 159 mg of BOP, 46 mg of N,N-diisopropylethylamine and 4 mL of DMF. The mixture was stirred at room temperature for 48 h. The mixture was addedbrine and was extracted with ethyl acetate. The combined ethyl acetate solution was washed with brine. Removal of the solvent and purification of the residue by column chromatography on silica gel gave 178 mg (98% yield) of (S)-2-{4′-[(5-chloro-4-isopropoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester as a colorless semi-solid.

reactant | 5-chloro-4-isopropoxy-3-methyl-benzofuran-2-carboxylic acid | 80 mg | ClC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC(C)C | C13H13ClO4
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester | 121 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C21H28N2O4S
reactant | BOP | 159 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 46 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-2-{4′-[(5-chloro-4-isopropoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester | 178 mg, 98% yield | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)Cl)OC(C)C)=O | C34H39ClN2O7S
